US05557017
Into a 1 l four-necked flask equipped with a stirrer, a reflux condenser, a dropping funnel and a thermometer, 250 cc of methanol and 3 g of tetrabutylphosphonium bromide and 74.3 g (1.1 mols) of 85% potassium hydroxide were charged. The reactor was heated to bring the internal temperature to 60° C. Then, 273 g (0.5 mol) of C8F17I was dropwise added thereto over a period of one hour. After completion of the dropwise addition, heating and refluxing were continued for 8 hours. The conversion at that time was 99.6%. The reactor was cooled to room temperature. Then, 300 g of water was added to dissolve precipitated potassium iodide. The crude reaction solution was separated into two layers, and the fluorocarbon layer (lower layer) was further washed with 300 g of water to recover a fluorocarbon. Thus, 197 g of C8F17H having a purity of 99.0%, was obtained.

reactant | methanol | 250 cc | CO | CH4O
reactant | potassium hydroxide | 1.1 mols, 74.3 g | [OH-].[K+]
reactant | C8F17I | 0.5 mol, 273 g | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)I | C8F17I
catalyst | tetrabutylphosphonium bromide | 3 g | [Br-].C(CCC)[P+](CCCC)(CCCC)CCCC
solvent | water | 300 g | O | H2O
product | C8F17H | 197 g | C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F | C8HF17
